US09029545B2
2-Methyl-6-(methyloxy)-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine
To a suspension of 4-amino-2-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-6(7H)-one (Description 36) (120 mg, 0.419 mmol) in DMF (3 mL) was added potassium carbonate (116 mg, 0.838 mmol) and methyl iodide (0.029 mL, 0.461 mmol). The suspension was then heated to 90° C. under nitrogen atmosphere for ca. 2 hand then cooled to RT, quenched with water (ca. 25 mL) and extracted with ethyl acetate (ca. 25 mL×2). The combined organic layers were passed through a phase separator and solvent concentrated in vacuo. The residue was purified by normal phase chromatography, eluting with a gradient of 0-100% ethyl acetate in DCM followed by 0-20% MeOH in DCM, to afford the title compound (16.5 mg). LCMS (A) m/z: 301 [M+1]+, Rt 1.21 min (acidic).

reactant | 4-amino-2-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-6(7H)-one | 0.419 mmol, 120 mg | NC=1C2=C(NC(C1)=O)SC(=C2C2=CC(=CC=C2)OC)C | C15H14N2O2S
reactant | potassium carbonate | 0.838 mmol, 116 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.461 mmol, 0.029 mL | CI | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-Methyl-6-(methyloxy)-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine | 16.5 mg | CC1=C(C2=C(N=C(C=C2N)OC)S1)C1=CC(=CC=C1)OC | C16H16N2O2S
